US07220856B2
The mixture of 4,7-dichloro-2-quinolinecarboxylic acid methyl ester (90.2 g, 379 mmol) and N-boc-piperazine (60.1 g, 387 mmol) in dry diisopropylethyl amine (300 mL) was kept at 140 degrees C. for 3 h. After the removal of diisopropylethyl amine in vacuo, ethyl ether was added to precipitate the product. The crude solid was collected by filtration and was purified by re-crystallization from EtOAc (500 mL) to afford 123 g (80%) of 7-chloro-4-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]-2-quinolinecarboxylic acid methyl ester as an off-white solid. 1H NMR (DMSO-d6): δ 1.42 (s, 18H), 3.18 (m, 4H), 3.61 (m, 4H), 3.92 (s, 3H), 7.47 (s, 1H), 7.63 (d, 1H), 8.04 (d, 1H), 8.1 (s, 1H).

reactant | 4,7-dichloro-2-quinolinecarboxylic acid methyl ester | 379 mmol, 90.2 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1)Cl)Cl | C11H7Cl2NO2
reactant | N-boc-piperazine | 387 mmol, 60.1 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | diisopropylethyl amine | 300 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 7-chloro-4-[4-[(1,1-dimethylethoxy)carbonyl]-1-piperazinyl]-2-quinolinecarboxylic acid methyl ester | 123 g, 80% | COC(=O)C1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)OC(C)(C)C)Cl | C20H24ClN3O4
